US05292733
Preparation of 4,6-diamino-1-methyl-S-triazine-2-thione
To 12 of dry dimethylformamide were dissolved 1.52 g of diguanide and 1.1 g of methylisothiocyanate, and the solution was heated at 100° C. for 30 minutes to produce white precipitates. After filtering off the precipitates rapidly, the filtrate was added to 500 ml of ice water to produce precipitates, which was subsequently filtered and recrystalized with 25 ml of 50% ethanol to obtain 2 g of the title compound having the characteristics of:

reactant | diguanide | 1.52 g | C(=NC(=N)N)(N)N | C2H7N5
reactant | methylisothiocyanate | 1.1 g | CN=C=S | C2H3NS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 4,6-diamino-1-methyl-S-triazine-2-thione | 2 g | NC1=NC(N(C(=N1)N)C)=S | C4H7N5S
